US09447090B2
To a solution of 1.38 g of 3-(cyclohexylmethoxy)-5-methylpyridin-2-amine in 24 ml of toluene were added 1.21 ml of ethyl 2-chloro-3-oxobutanoate and 1.23 ml of triethylamine, followed by stirring at 110° C. for 3 days. After leaving to be cooled at room temperature, water and diisopropyl ether were added thereto to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.52 g of ethyl 8-(cyclohexylmethoxy)-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate.

reactant | 3-(cyclohexylmethoxy)-5-methylpyridin-2-amine | 1.38 g | C1(CCCCC1)COC=1C(=NC=C(C1)C)N | C13H20N2O
reactant | ethyl 2-chloro-3-oxobutanoate | 1.21 ml | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
reactant | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | ethyl 8-(cyclohexylmethoxy)-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate | 1.52 g | C1(CCCCC1)COC=1C=2N(C=C(C1)C)C(=C(N2)C)C(=O)OCC | C19H26N2O3
